US07906654B2
2-(4-Acetyl-2-chlorophenyl)-2-methylpropanenitrile
To a stirred solution of 2-(4-bromo-2-chlorophenyl)-2-methylpropanenitrile (2.85 g, 11.0 mmol) in anhydrous THF (60 mL) at −78° C. is added n-butyllithium (2 M in c-hexane) (6.1 mL, 12.1 mmol). The reaction mixture is stirred at this temperature 10 min., then N-methoxy-N-methyl-acetamide (2.34 mL, 22.0 mmol) is added neat and the solution is stirred 10 min. at −78° C. and then warmed up to room temperature for another hour. Acidic brine (60 mL) is then slowly added and the solution is extracted with EtOAc (3×60 mL). The organic layer is dried over MgSO4, filtered and concentrated under reduced pressure. The crude product is purified by flash chromatography (eluent: Hex/EtOAc 1:0 to 7:3) to provide the expected product 2-(4-acetyl-2-chlorophenyl)-2-methylpropanenitrile (1.57 g, 64%) as a yellow oil. 1H NMR (300 MHz, CHLOROFORM-D): δ 7.96 (1H, d, J=1.9 Hz), 7.81 (1H, dd, J=8.3, 1.9 Hz), 7.55 (1H, d, J=8.3 Hz), 2.56 (3H, s), 1.85 (6H, s).

reactant | 2-(4-bromo-2-chlorophenyl)-2-methylpropanenitrile | 11.0 mmol, 2.85 g | BrC1=CC(=C(C=C1)C(C#N)(C)C)Cl | C10H9BrClN
reactant | n-butyllithium | 12.1 mmol, 2 M, 6.1 mL | C(CCC)[Li]
reactant | N-methoxy-N-methyl-acetamide | 22.0 mmol, 2.34 mL | CON(C(C)=O)C | C4H9NO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | brine | 60 mL | [Cl-].[Na+].O
product | 2-(4-acetyl-2-chlorophenyl)-2-methylpropanenitrile | 1.57 g, 64% | C(C)(=O)C1=CC(=C(C=C1)C(C#N)(C)C)Cl | C12H12ClNO
